US08541418B2
To a stirred solution of isoquinoline 2-oxide (2-Im-9, 5.8 g) in 140 mL of acetonitrile, diethyl phosphoro-cyanidate (1.5 eq) was added under argon followed by slow addition of TEA (3.0 eq). The mixture was refluxed for 18 h and then extracted with DCM. The organic layer was concentrated and purified by silica column chromatography to give isoquinoline-1-carbonitrile (3-Im-9).

reactant | isoquinoline 2-oxide | 5.8 g | C1=[N+](C=CC2=CC=CC=C12)[O-] | C9H7NO
reactant | diethyl phosphoro-cyanidate | 1.5 eq | P(OCC)(OCC)(=O)C#N | C5H10NO3P
solvent | acetonitrile | 140 mL | C(C)#N | C2H3N
product | isoquinoline-1-carbonitrile | C1(=NC=CC2=CC=CC=C12)C#N | C10H6N2
